US08420816B2
4-(4-ethyl-1-propionylpiperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one
4-(4-Ethylpiperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one (12 mg, 0.042 mmol), propionic acid (4 mg, 0.055 mmol), 4-dimethylaminopyridine (10 mg, 0.084 mmol), and HATU (32 mg, 0.084 mmol) were dissolved in DMF (3 mL) at room temperature and allowed to stir for 3 h. The solution was concentrated in vacuo and purified via preparative HPLC 10% to 40% B in A and gave 4.6 mg of the title compound as its TFA salt. 1H NMR (400 MHz, CD3OD) δ 7.58 (m, 1H), 7.41 (m, 1H), 5.12 (s, 2H), 3.70-3.74 (m, 1H), 3.59-3.63 (m, 3H), 2.58-2.61 (m, 1H), 2.41-2.43 (m, 3H), 2.21-2.30 (m, 4H), 1.11 (t, 3H, J=7.6 Hz), 0.94 (t, 3H, J=7.6 Hz). [M+H] found 341.

reactant | 4-(4-Ethylpiperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one | 0.042 mmol, 12 mg | C(C)C1(CCNCC1)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C16H20N4O
reactant | propionic acid | 0.055 mmol, 4 mg | C(CC)(=O)O | C3H6O2
reactant | HATU | 0.084 mmol, 32 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
catalyst | 4-dimethylaminopyridine | 0.084 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(4-ethyl-1-propionylpiperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one | 4.6 mg | C(C)C1(CCN(CC1)C(CC)=O)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C19H24N4O2
